US05527827
2-Bromo-6-(hexafluoro-2-hydroxyprop-2-yl)pyridine
To a suspension of 2,6-dibromopyridine (2.37 g, 10 mmol) in THF (25 mL) at -70° there was added slowly n-BuLi, 1.4M, in hexane (7.9mL, 11 mmol). The resulting mixture was stirred in the cold until a solution was obtained (10 min). This solution was cannulated into a solution of hexafluoroacetone prepared by bubbling hexafluoroacetone into THF (10 mL) at -70° for 3 min. The resulting reaction mixture was stirred for 15 min., then quenched with an aqueous solution of NH4Cl (8 mL). The suspension was allowed to warm to r.t. and was extracted with Et2O. After drying and evaporation of the organic extract, the residue was chromatographed on silica gel with hexane:EtOAc, followed by bulb-to-bulb distillation to afford the title compound, m.p. 67°-69° C.

reactant | 2,6-dibromopyridine | 10 mmol, 2.37 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | n-BuLi | [Li]CCCC
reactant | hexane | 11 mmol, 7.9mL | CCCCCC | C6H14
reactant | hexafluoroacetone | FC(C(=O)C(F)(F)F)(F)F | C3F6O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 2-Bromo-6-(hexafluoro-2-hydroxyprop-2-yl)pyridine | BrC1=NC(=CC=C1)C(C(F)(F)F)(C(F)(F)F)O | C8H4BrF6NO
